* Library of Motorola RF Bipolar Transistors
* $Revision:   1.8  $
* $Author:   RPEREZ  $
* $Date:   02 Oct 1996 15:45:00  $
*
*---------------------------------------------------------------
*****************************************************************************
*
*
*Copyright (c) Motorola, Inc. 1996
*     
*The values contained in these parameter sets may not be modified in any 
*way.
*     
*No additional parameters may be added to these parameter sets without 
*prior written permission from Motorola.
*     
*Macromodels, simulation models, or other models provided by Motorola, 
*directly or indirectly, are not warranted by Motorola as fully 
*representing all of the specifications and operating characteristics of 
*the semiconductor product to which the model relates. Moreover, these 
*models are furnished on an "as is" basis without support or warranty of 
*any kind, either expressed or implied, regarding the use thereof and 
*Motorola specifically disclaims all implied warranties of 
*merchantability and fitness of the models for any purpose.  Motorola 
*does not assume any liability arising out of the application or use of 
*the models including infringement of patents and copyrights nor does 
*Motorola convey any license under its patents and copyrights or the 
*rights of others. Motorola reserves the right to make changes without 
*notice to any model. Although macromodels can be a useful tool in 
*evaluating device performance in various applications, they cannot model 
*exact device performance under all conditions, nor are they intended to 
*replace breadboarding for final verification. 
*     
*Motorola SPICE parameter sets are also available on the Motorola SPS 
*World Wide Web server <URL:http://motserv.indirect.com/>
*
*$
*---------------------------------------------------------------------------
********************
* Version 1.1.0a
.SUBCKT BFS17/MC 100 200 300
LCL 100 199 2.8E-10
LBL 200 201 3.2E-10
LBB 201 299 8.4E-10
LEL 300 301 3.2E-10
LEB 301 399 8.4E-10
CCB 201 199 6E-14
CCE 199 301 2.4E-13
CBE 201 301 1.2E-13
X1 199 299 399 XBFS17
.ENDS
********************
.SUBCKT XBFS17 1 2 3
CBPAD 1 2 5E-14
CEPAD 1 3 5E-14
Q1 1 2 3 DBFS17
.ENDS
********************
 .MODEL DBFS17 NPN
+ IS = 3.157E-16
+ BF = 102
+ NF = 0.9953
+ VAF = 28
+ IKF = 0.12
+ ISE = 4.184E-15
+ NE = 1.623
+ BR = 46
+ NR = 0.9952
+ VAR = 9
+ IKR = 0.022
+ ISC = 1.004E-15
+ NC = 1.108
+ RB = 4
+ IRB = 8E-05
+ RBM = 4
+ RE = 0.55
+ RC = 2
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 9.45E-13
+ VJE = 0.676
+ MJE = 0.2361
+ CJC = 1.1E-12
+ VJC = 0.5166
+ MJC = 0.2761
+ XCJC = 0.4
+ TF = 6.7E-11
+ XTF = 150
+ VTF = 0.6
+ ITF = 0.75
+ PTF = 21
+ TR = 1E-09
+ FC = 0.96
*
*$
*------------------------------------------------------------------------------------
*
********************
* Version 1.1.0a
.SUBCKT MMBR521/MC 100 200 300
LCL 100 199 2.8E-10
LBL 200 201 3.2E-10
LBB 201 299 8.4E-10
LEL 300 301 3.2E-10
LEB 301 399 8.4E-10
CCB 201 199 6E-14
CCE 199 301 2.4E-13
CBE 201 301 1.2E-13
CCG 199 0 1E-13
CBG 201 0 1E-13
CEG 301 0 1E-13
X1 199 299 399 XMMBR521
.ENDS
********************
.SUBCKT XMMBR521 100 200 300
CEPAD 300 100 2.4E-13
CBPAD 200 100 2.4E-13
Q1 100 200 300 DMMBR521
.ENDS
********************
 .MODEL DMMBR521 PNP
+ IS = 1.755E-15
+ BF = 107
+ NF = 1.004
+ VAF = 15
+ IKF = 0.13
+ ISE = 2.178E-13
+ NE = 1.51
+ BR = 47
+ NR = 0.9993
+ VAR = 3
+ IKR = 0.0038
+ ISC = 4.18E-15
+ NC = 1.283
+ RB = 1
+ IRB = 1.2E-05
+ RBM = 0.3
+ RE = 1
+ RC = 8
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 2.9E-12
+ VJE = 0.83
+ MJE = 0.38
+ CJC = 1.7E-12
+ VJC = 0.712
+ MJC = 0.425
+ XCJC = 0.5
+ TF = 4.8E-11
+ XTF = 9.936
+ VTF = 0.8
+ ITF = 0.2
+ PTF = 10
+ TR = 8.2E-09
+ FC = 0.9
*$
*------------------------------------------------------------------------------------
*     
 ********************
* Version 1.1.0a
.SUBCKT MMBR571/MC 100 200 300
LCL 100 199 2.8E-10
LBL 200 201 3.2E-10
LBB 201 299 8.4E-10
LEL 300 301 3.2E-10
LEB 301 399 8.4E-10
CCB 201 199 6E-14
CCE 199 301 2.4E-13
CBE 201 301 1.2E-13
X1 199 299 399 XMBR571
.ENDS
********************
.SUBCKT XMBR571 1 2 3
CBPAD 2 1 7E-14
CEPAD 1 3 7E-14
Q1 1 2 3 DMBR571
.ENDS
********************
 .MODEL DMBR571 NPN
+ IS = 2.8E-15
+ BF = 185
+ NF = 1.005
+ VAF = 22
+ IKF = 10
+ ISE = 2.093E-14
+ NE = 1.641
+ BR = 14
+ NR = 1.005
+ VAR = 2.2
+ IKR = 0.25
+ ISC = 1.196E-15
+ NC = 1.1
+ RB = 5
+ IRB = 8E-05
+ RBM = 5
+ RE = 0.3
+ RC = 1
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3E-12
+ VJE = 0.92
+ MJE = 0.44
+ CJC = 1.8E-12
+ VJC = 0.641
+ MJC = 0.406
+ XCJC = 0.15
+ TF = 1.25E-11
+ XTF = 500
+ VTF = 1
+ ITF = 2
+ PTF = 55
+ TR = 1E-09
+ FC = 0.95
*$
*------------------------------------------------------------------------
*
 ********************
* Version 1.1.0a
.SUBCKT MMBR901/MC 100 200 300
LCL 100 199 2.8E-10
LBL 200 201 3.2E-10
LBB 201 299 8.4E-10
LEL 300 301 3.2E-10
LEB 301 399 8.4E-10
CCB 201 199 6E-14
CCE 199 301 2.4E-13
CBE 201 301 1.2E-13
X1 199 299 399 XMBR901
.ENDS
********************
.SUBCKT XMBR901 1 2 3
CBPAD 1 2 2.4E-13
CEPAD 1 3 2.4E-13
Q1 1 2 3 DMBR901
.ENDS
********************
 .MODEL DMBR901 NPN
+ IS = 3.698E-16
+ BF = 100
+ NF = 1.003
+ VAF = 46
+ IKF = 0.7
+ ISE = 8.812E-15
+ NE = 1.573
+ BR = 125.2
+ NR = 0.9945
+ VAR = 5
+ IKR = 1
+ ISC = 6.423E-15
+ NC = 1.133
+ RB = 3
+ IRB = 8E-05
+ RBM = 3
+ RE = 0.4
+ RC = 32
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.6E-12
+ VJE = 0.826
+ MJE = 0.348
+ CJC = 5.5E-13
+ VJC = 0.604
+ MJC = 0.315
+ XCJC = 0.5
+ TF = 1.6E-11
+ XTF = 500
+ VTF = 1.6
+ ITF = 0.3
+ PTF = 85
+ TR = 1E-09
+ FC = 0.95
*$
*----------------------------------------------------------------------------------
*
 ********************
* Version 1.1.0a
* The Gummel-Poon BJT model does not model the
* distributed resistance and capacitance of the base- 
* collector region. Normally this is not a significant 
* problem because most low-power RF parts have low
* overall base-region resistance (8-12 ohms). However, 
* the MMBR931 device has a much higher overall
* resistance in the base, and so requires an improved 
* distribution of base-collector resistance and
* capacitance.
* This improved distribution is accomplished by adding 
* a 3-stage ladder of resistors and diodes between the 
* external base and collector nodes of the Gummel-Poon 
* model (see the XMBR931 sub-circuit). When the
* transitor is in the forward-active mode (B-E 
* junction forward biased, B-C junction reverse
* biased), the diodes model the voltage-dependent 
* capacitance of the B-C junction.
* If the B-C junction becomes forward-biased by a
* voltage greater than FC * VJC, the diodes are turned 
* off, relative to the B-C junction of the BJT. This
* is accomplished by setting the saturation current 
* (IS) of the diodes to 1/1000th that of the
* transistor. This model's accuracy when the B-C 
* junction is forward-biased into diode turn-off
* region is unknown, and likely not usable for even 
* preliminary design work.
********************
.SUBCKT MMBR931/MC 100 200 300
LCL 100 199 2.8E-10
LBL 200 201 3.2E-10
LBB 201 299 8.4E-10
LEL 300 301 3.2E-10
LEB 301 399 8.4E-10
CCB 201 199 6E-14
CCE 199 301 2.4E-13
CBE 201 301 1.2E-13
X1 199 299 399 XMBR931
.ENDS
*******************
 .SUBCKT XMBR931 1 2 3
RB1 2 4 6
RB2 4 5 6
RB3 5 6 40
DBC1 2 1 A931BCEX
DBC2 4 1 A931BCEX
DBC3 5 1 A931BCEX
CBPAD 2 1 1.2E-13
CEPAD 3 1 1.2E-13
Q1 1 6 3 DMBR931
.ENDS
********************
.MODEL A931BCEX D
+ IS = 2.865E-20
+ TT = 2E-11
+ CJO = 2.6E-14
+ VJ = 0.25
+ M = 0.18
********************
 .MODEL DMBR931 NPN
+ IS = 2.865E-17
+ BF = 100.5
+ NF = 1
+ VAF = 35
+ IKF = 0.013
+ ISE = 1.83E-14
+ NE = 2.235
+ BR = 3.934
+ NR = 0.9992
+ VAR = 4
+ IKR = 0.001817
+ ISC = 3.749E-17
+ NC = 1.1
+ RB = 1
+ IRB = 1.992E-05
+ RBM = 1
+ RE = 1.3
+ RC = 40
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1E-13
+ VJE = 0.7
+ MJE = 0.27
+ CJC = 2.6E-14
+ VJC = 0.25
+ MJC = 0.18
+ XCJC = 0.5
+ TF = 2E-11
+ XTF = 29
+ VTF = 1.2
+ ITF = 0.028
+ PTF = 60
+ TR = 1E-09
+ FC = 0.5
*$
********************
* Version 1.1.1a -- dual emitter bond pad 
.SUBCKT MMBR941/MC 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR941
.ENDS
********************
.SUBCKT XMBR941 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMBR941 
.ENDS
*******************
.MODEL DMBR941 NPN 
+ IS = 8.148E-16 
+ BF = 144 
+ NF = 1.002 
+ VAF = 20 
+ IKF = 0.7 
+ ISE = 1.902E-13 
+ NE = 2.077 
+ BR = 43.92 
+ NR = 1 
+ VAR = 2.5 
+ IKR = 0.00825 
+ ISC = 8.972E-16 
+ NC = 1.381 
+ RB = 9 
+ IRB = 8E-05 
+ RBM = 9 
+ RE = 0.48 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.85E-13 
+ VJE = 0.956 
+ MJE = 0.489 
+ CJC = 3.5E-13 
+ VJC = 0.57 
+ MJC = 0.2418 
+ XCJC = 0.3 
+ TF = 1.2E-11 
+ XTF = 500 
+ VTF = 5 
+ ITF = 1.3 
+ PTF = 70 
+ TR = 1E-09 
+ FC = 0.9 
*$
*-------------------------------------------------------------------------------
*
 ********************
* Version 1.1.0a
.SUBCKT MMBR951/MC 100 200 300
LCL 100 199 2.8E-10
LBL 200 201 3.2E-10
LBB 201 299 8.4E-10
LEL 300 301 3.2E-10
LEB 301 399 8.4E-10
CCB 201 199 6E-14
CCE 199 301 2.4E-13
CBE 201 301 1.2E-13
X1 199 299 399 XMBR951
.ENDS
********************
.SUBCKT XMBR951 1 2 3
CBPAD 2 1 9E-14
CEPAD 1 3 9E-14
Q1 1 2 3 DMBR951
.ENDS
********************
     
.MODEL DMBR951 NPN
+ IS = 8.633E-16
+ BF = 105
+ NF = 0.9909
+ VAF = 26
+ IKF = 100
+ ISE = 1E-15
+ NE = 1.356
+ BR = 60
+ NR = 0.9983
+ VAR = 5
+ IKR = 0.022
+ ISC = 1.673E-16
+ NC = 1.076
+ RB = 5
+ IRB = 8E-05
+ RBM = 5
+ RE = 0.33
+ RC = 10
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 2.9E-12
+ VJE = 1.061
+ MJE = 0.5089
+ CJC = 7.3E-13
+ VJC = 0.25
+ MJC = 0.27
+ XCJC = 0.5
+ TF = 9E-12
+ XTF = 500
+ VTF = 3
+ ITF = 1.1
+ PTF = 85
+ TR = 1E-09
+ FC = 0.5
*$
*---------------------------------------------------------------------------
********************
* Version 1.0.0a
.SUBCKT MRF9331/MC 100 200 300 
CCE22 100 351 8E-14 
LC 100 102 4E-10 
LB 200 202 1.5E-10 
CBC 102 202 3E-14 
CBE2 202 353 7E-14 
CBE1 200 301 3E-14 
CCE1 102 303 1.3E-13 
CCE2 102 353 1.3E-13 
LE1 301 303 1.5E-10 
LE2 351 353 1.5E-10 
LBB 202 299 8E-10 
LEB1 303 399 8E-10 
LEB2 353 399 8E-10 
RCC 102 199 1E-06 
RX1 300 301 1E-06 
RX2 300 351 1E-06 
X1 199 299 399 XMRF9331 
.ENDS
********************
.SUBCKT XMRF9331 1 2 3 
CBPAD 2 1 3E-14 
CEPAD 1 3 3E-14 
Q1 1 2 3 DMRF9331
.ENDS
********************
.MODEL DMRF9331 NPN 
+ IS = 3.2E-17 
+ BF = 238.6 
+ NF = 0.992 
+ VAF = 44 
+ IKF = 0.01798 
+ ISE = 1.615E-14 
+ NE = 2.5 
+ BR = 8 
+ NR = 0.995 
+ VAR = 2 
+ IKR = 0.002 
+ ISC = 7.487E-17 
+ NC = 1.139 
+ RB = 54 
+ IRB = 0.0001 
+ RBM = 54 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1E-13 
+ VJE = 0.9902 
+ MJE = 0.2063 
+ CJC = 1.6E-13 
+ VJC = 0.25 
+ MJC = 0.07 
+ XCJC = 0.13 
+ TF = 1.3E-11 
+ XTF = 30 
+ VTF = 0.7 
+ ITF = 0.05 
+ PTF = 30 
+ TR = 4.578E-09 
+ FC = 0.95 
*$
*---------------------------------------------------------------------------
********************
* Version 1.1.1b
.SUBCKT MRF947/MC 100 200 300 
LCL 100 199 3.4E-10 
LBL 200 201 2.9E-10 
LBB 201 299 7.8E-10 
LEL 300 301 2.9E-10 
LEB 301 399 7.8E-10 
CCB 201 199 4E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF947 
.ENDS
********************
.SUBCKT XMRF947 1 2 3 
CBPAD 2 1 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMRF947 
.ENDS
*******************
.MODEL DMRF947 NPN 
+ IS = 4.536E-16 
+ BF = 130 
+ NF = 1.003 
+ VAF = 24 
+ IKF = 0.8 
+ ISE = 7.238E-13 
+ NE = 2.577 
+ BR = 21 
+ NR = 1 
+ VAR = 3.3 
+ IKR = 0.022 
+ ISC = 1.71E-15 
+ NC = 1.202 
+ RB = 8 
+ IRB = 8E-05 
+ RBM = 8 
+ RE = 0.65 
+ RC = 12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.2E-13 
+ VJE = 0.93 
+ MJE = 0.355 
+ CJC = 4E-13 
+ VJC = 0.357 
+ MJC = 0.237 
+ XCJC = 0.5 
+ TF = 1.2E-11 
+ XTF = 500 
+ VTF = 4 
+ ITF = 1.2 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.95 
*$
*---------------------------------------------------------------------------
*
********************
* Version 1.0.0a
.SUBCKT MRF5711/MC 100 200 300
LCL1 100 101 1.7E-10
LCL2 101 102 1.7E-10
LCL3 102 199 1.7E-10
LBL1 200 201 1.3E-10
LBL2 201 202 1.3E-10
LBL3 202 203 1.3E-10
LBB 203 299 6E-10
LEL11 350 351 1.3E-10
LEL12 351 352 1.3E-10
LEL13 352 353 1.3E-10
LEB1 353 399 6E-10
LEL21 340 341 1.3E-10
LEL22 341 342 1.3E-10
LEL23 342 343 1.3E-10
LEB2 343 399 6E-10
CBE11 201 351 1E-14
CBE12 202 352 1E-14
CBE21 203 343 3E-14
CCB 203 199 1E-14
CCE21 101 341 1.2E-13
CCE22 102 342 1.2E-13
CCE11 199 353 1.8E-13
RX1 350 300 0.001
RX2 340 300 0.001
X1 199 299 399 XMRF5711
.ENDS
********************
.SUBCKT XMRF5711 1 2 3
CBPAD 2 1 5E-14
CEPAD 1 3 5E-14
Q1 1 2 3 DMRF5711
.ENDS
********************
 .MODEL DMRF5711 NPN
+ IS = 1.463E-15
+ BF = 142
+ NF = 0.9938
+ VAF = 30
+ IKF = 0.7
+ ISE = 8.968E-14
+ NE = 1.998
+ BR = 18.91
+ NR = 0.9936
+ VAR = 2.5
+ IKR = 0.08659
+ ISC = 9.806E-16
+ NC = 1.1
+ RB = 2.4
+ IRB = 0.0001
+ RBM = 2.5
+ RE = 0.26
+ RC = 1
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 2.9E-12
+ VJE = 0.96
+ MJE = 0.447
+ CJC = 1.8E-12
+ VJC = 0.665
+ MJC = 0.409
+ XCJC = 0.4
+ TF = 1.35E-11
+ XTF = 500
+ VTF = 0.8
+ ITF = 1.3
+ PTF = 50
+ TR = 1E-09
+ FC = 0.6
********************
*$
*-------------------------------------------------------------------------
*     
********************
* Version 1.0.0a
.SUBCKT MRF5812/MC 100 200 300
LC1 100 10 1.8E-10
LB1 200 14 1.9E-10
LE1 300 18 1.33E-10
CB1 14 18 2.6E-13
CC1 10 18 2.6E-13
CC2 9 17 2.6E-13
CC3 8 16 2.6E-13
LB4 12 11 1.9E-10
LBB 11 5 7.5E-10
LEB 6 15 3.75E-10
LE4 15 16 1.33E-10
LC2 10 9 1.8E-10
LC3 9 8 1.8E-10
LB2 14 13 1.9E-10
LB3 13 12 1.9E-10
CB2 13 17 2.6E-13
CB3 12 16 2.6E-13
LE2 18 17 1.33E-10
LE3 17 16 1.33E-10
X1 8 5 6 XMRF5812
.ENDS
********************
.SUBCKT XMRF5812 1 2 3
CBPAD 2 1 2.2E-13
CEPAD 1 3 2.2E-13
Q1 1 2 3 DMRF5812
.ENDS
 ********************
.MODEL DMRF5812 NPN
+ IS = 6.363E-15
+ BF = 131.4
+ NF = 1.004
+ VAF = 50
+ IKF = 6
+ ISE = 5.709E-14
+ NE = 1.808
+ BR = 18
+ NR = 1
+ VAR = 3.3
+ IKR = 5
+ ISC = 2.98E-15
+ NC = 1.121
+ RB = 2.3
+ IRB = 1E-05
+ RBM = 2.3
+ RE = 0.9
+ RC = 2
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.5E-12
+ VJE = 0.971
+ MJE = 0.4941
+ CJC = 3.7E-12
+ VJC = 0.7
+ MJC = 0.5
+ XCJC = 0.5
+ TF = 1.7E-11
+ XTF = 40
+ VTF = 1
+ ITF = 2
+ PTF = 35
+ TR = 1E-09
+ FC = 0.95
********************
*$
*--------------------------------------------------------------------------
*
 ********************
* Version 1.0.0a
.SUBCKT MRF9011/MC 100 200 300
LCL1 100 101 1.8E-10
LCL2 101 102 1.8E-10
LCL3 102 199 1.8E-10
LBL1 200 201 1.3E-10
LBL2 201 202 1.3E-10
LBL3 202 203 1.3E-10
LBB 203 299 6.4E-10
LEL11 350 351 1.3E-10
LEL12 351 352 1.3E-10
LEL13 352 353 1.3E-10
LEB1 353 399 6.4E-10
LEL21 340 341 1.3E-10
LEL22 341 342 1.3E-10
LEL23 342 343 1.3E-10
LEB2 343 399 6.4E-10
CBE11 201 351 1E-14
CBE12 202 352 1E-14
CBE21 203 343 3E-14
CCB 203 199 1E-14
CCE21 101 341 1.2E-13
CCE22 102 342 1.2E-13
CCE11 199 353 1.9E-13
RX1 350 300 0.001
RX2 340 300 0.001
X1 199 299 399 XMRF9011
.ENDS
********************
.SUBCKT XMRF9011 1 2 3
CBPAD 2 1 8E-14
CEPAD 1 3 8E-14
Q1 1 2 3 DMRF9011
.ENDS
********************
     
.MODEL DMRF9011 NPN
+ IS = 2.834E-16
+ BF = 87
+ NF = 0.985
+ VAF = 44
+ IKF = 10
+ ISE = 3.645E-14
+ NE = 1.989
+ BR = 6
+ NR = 0.9903
+ VAR = 7
+ IKR = 0.018
+ ISC = 4.705E-16
+ NC = 1.148
+ RB = 5
+ IRB = 8E-05
+ RBM = 5
+ RE = 0.65
+ RC = 12
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.7E-12
+ VJE = 0.94
+ MJE = 0.4
+ CJC = 9.3E-13
+ VJC = 0.545
+ MJC = 0.3
+ XCJC = 0.05
+ TF = 2.3E-11
+ XTF = 400
+ VTF = 0.5
+ ITF = 0.5
+ PTF = 40
+ TR = 1E-09
+ FC = 0.6
********************    
*$
*--------------------------------------------------------------
*
********************
* Version 1.0.1a
.SUBCKT MRF9411/MC 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.5E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.5E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.5E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF9411 
.ENDS
********************
.SUBCKT XMRF9411 1 2 3 
CBPAD 2 1 4E-14 
CEPAD 1 3 8E-14 
Q1 1 2 3 DMRF9411 
.ENDS
********************
.MODEL DMRF9411 NPN 
+ IS = 4.558E-16 
+ BF = 136 
+ NF = 0.9979 
+ VAF = 21 
+ IKF = 0.7 
+ ISE = 3.087E-14 
+ NE = 2 
+ BR = 42 
+ NR = 0.993 
+ VAR = 2.9 
+ IKR = 0.016 
+ ISC = 3.411E-17 
+ NC = 1.087 
+ RB = 7 
+ IRB = 8E-05 
+ RBM = 8 
+ RE = 0.45 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.6E-13 
+ VJE = 0.94 
+ MJE = 0.42 
+ CJC = 4.3E-13 
+ VJC = 0.35 
+ MJC = 0.21 
+ XCJC = 0.44 
+ TF = 1.3E-11 
+ XTF = 400 
+ VTF = 6 
+ ITF = 1.5 
+ PTF = 47 
+ TR = 1E-09 
+ FC = 0.98 
*$
*------------------------------------------
********************
* Version 1.0.0a
.SUBCKT MRF9511/MC 100 200 300
LCL1 100 101 1.8E-10
LCL2 101 102 1.8E-10
LCL3 102 199 1.8E-10
LBL1 200 201 1.3E-10
LBL2 201 202 1.3E-10
LBL3 202 203 1.3E-10
LBB 203 299 6.6E-10
LEL11 350 351 1.3E-10
LEL12 351 352 1.3E-10
LEL13 352 353 1.3E-10
LEB1 353 399 6.6E-10
LEL21 340 341 1.3E-10
LEL22 341 342 1.3E-10
LEL23 342 343 1.3E-10
LEB2 343 399 6.6E-10
CBE11 201 351 1E-14
CBE12 202 352 1E-14
CBE21 203 343 3E-14
CCB 203 199 1E-14
CCE21 101 341 1.2E-13
CCE22 102 342 1.2E-13
CCE11 199 353 1.8E-13
RX1 350 300 0.001
RX2 340 300 0.001
X1 199 299 399 XMRF9511
.ENDS
********************
.SUBCKT XMRF9511 1 2 3
CBPAD 2 1 6E-14
CEPAD 1 3 6E-14
Q1 1 2 3 DMRF9511
.ENDS
 ********************
.MODEL DMRF9511 NPN
+ IS = 1.168E-15
+ BF = 140
+ NF = 1.001
+ VAF = 20
+ IKF = 1
+ ISE = 2.165E-15
+ NE = 1.371
+ BR = 45
+ NR = 0.9924
+ VAR = 3.3
+ IKR = 0.022
+ ISC = 2.294E-16
+ NC = 1.133
+ RB = 3.5
+ IRB = 8E-05
+ RBM = 3.5
+ RE = 0.55
+ RC = 1.8
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.8E-12
+ VJE = 1.1
+ MJE = 0.5576
+ CJC = 8.5E-13
+ VJC = 0.41
+ MJC = 0.3
+ XCJC = 0.5
+ TF = 1.3E-11
+ XTF = 400
+ VTF = 0.6
+ ITF = 1.5
+ PTF = 48
+ TR = 1E-09
+ FC = 0.9
********************
*$
*---------------------------------------------------------------------------

